US04156766
To a solution of 1.95 g. of sodium peroxide in 23 ml. of distilled water maintained at 0°-5° C., is added dropwise with vigorous stirring a solution of 7.85 g. of p-t-butylbenzoyl chloride in 13 ml. of dry toluene. When the addition is complete after 45 minutes, the whole is allowed to stir for two and one-half hours at 0°-5° C., after which 80 ml. of cold water is added and the whole is stirred for an additional half hour at 0°-5° C. The resulting white precipitate is collected by filtration, washed with 55 ml. of cold methanol in three separate portions, and allowed to dry yield p-t-butylbenzoyl peroxide as a fine white powder; m.p. 149° C. (dec.)

reactant | sodium peroxide | [O-][O-].[Na+].[Na+]
reactant | p-t-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
product | p-t-butylbenzoyl peroxide | C(C)(C)(C)C1=CC=C(C(=O)OOC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C22H26O4
